US07994196B2
Ethyl 1H-indazol-3-ylcarbamate (81 mg) and 1-(2-fluorophenyl)piperazine (Aldrich Co., 47 mg) were dissolved in dimethylformamide (2 ml), and the mixture was stirred with heating at 100° C. for 11 hr. After allowing to cool, water was added to the reaction mixture, and the precipitated solid was collected by filtration and dried to give 4-(2-fluorophenyl)-1-piperazinecarboxylic acid (1H-indazol-3-yl)amide (48 mg, yield 57%).

reactant | Ethyl 1H-indazol-3-ylcarbamate | 81 mg | N1N=C(C2=CC=CC=C12)NC(OCC)=O | C10H11N3O2
reactant | 1-(2-fluorophenyl)piperazine | 47 mg | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-(2-fluorophenyl)-1-piperazinecarboxylic acid (1H-indazol-3-yl)amide | 48 mg, yield 57% | N1N=C(C2=CC=CC=C12)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C18H18FN5O
